US06936612B2
6-Benzyl-8-cyclopentyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one (0.64 g, 1.74 mmol) and 4-(6-Amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester (0.87 g, 2.96 mmol) in toluene (10 ml) were heated to 95° C. for 28 hours. The reaction mixture was allowed to cool then chromatographed on silica gel using a gradient of 20 to 50% ethyl acetate in hexane. The product-containing fractions were evaporated and the residue was triturated with acetonitrile to give a solid. This solid was collected by filtration and dried in vacuo to provide 4-[6-(6-benzyl-8-cyclopentyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester (0.201 g, 19.8%). MS (APCI) M++1: Calc'd, 582.31. Found, 582.3.

reactant | 6-Benzyl-8-cyclopentyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one | 1.74 mmol, 0.64 g | C(C1=CC=CC=C1)C1=CC2=C(N=C(N=C2)S(=O)C)N(C1=O)C1CCCC1 | C20H21N3O2S
reactant | 4-(6-Amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 2.96 mmol, 0.87 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)N | C14H22N4O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[6-(6-benzyl-8-cyclopentyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.201 g, 19.8% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2)CC2=CC=CC=C2)=O)C2CCCC2 | C33H39N7O3
